US06150379
A mixture comprising 3,4-diaminobenzamidine hydrochloride (1.16 g, 6.2 mmol), methyl 2-(C-ethoxyiminomethyl)pyridine-4-carboxylate (1.8 g, 7.4 mmol) and anhydrous methanol (6 mL) was stirred for 20 hours. The mixture was concentrated and the residue was trituated with hot methanol (5 mL). The solid was isolated and dried to provide methyl 2-(5-amidino-1H-benzimidazol-2-yl)pyridine-4-carboxylate (1.8 g, 5.1 mmol); Calculated for C15H13N5O2 : 295.3, Found (MH+): 295.7.

reactant | 3,4-diaminobenzamidine hydrochloride | 6.2 mmol, 1.16 g | Cl.NC=1C=C(C(=N)N)C=CC1N
reactant | methyl 2-(C-ethoxyiminomethyl)pyridine-4-carboxylate | 7.4 mmol, 1.8 g | C(C)ON=CC1=NC=CC(=C1)C(=O)OC | C10H12N2O3
solvent | methanol | 6 mL | CO | CH4O
product | methyl 2-(5-amidino-1H-benzimidazol-2-yl)pyridine-4-carboxylate | 5.1 mmol, 1.8 g | C(N)(=N)C1=CC2=C(NC(=N2)C2=NC=CC(=C2)C(=O)OC)C=C1 | C15H13N5O2
